US06114369
N-methyl-N-(1-(4-fluorobenzyl)benzimidazol-2-yl)-N'-methyl-N'-(3,5-bis(trifluoromethyl)benzylaminocarbonyl)-1,3-propylenediamine hydrochloride
2 ml of trifluoroacetic acid was added to 1.3 g of N-methyl-N-(1-(4-fluorobenzyl)benzimidazol-2-yl)-N'-methyl-N'-t-butoxycarbonyl-1,3-propylenediamine, and the mixture was stirred at room temperature for one hour. Then, 50 ml of water and 50 ml of chloroform were added thereto, and potassium carbonate was added thereto until the mixture became basic. The organic layer was taken and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, to obtain 970 mg of a colorless oily substance. To 300 mg of this oily substance, 370 mg of phenyl N-(3,5-bis(trifluoromethyl)benzyl)carbamate was added, and the mixture was heated and stirred at 120° C. for two hours. After cooling, the obtained oily substance was purified by silica gel column chromatography (eluent: ethyl acetate/ethanol=9/1) to obtain 500 mg of a colorless oily substance. 250 mg of this oily substance was dissolved in 3 ml of ethanol, and 1 ml of 28% hydrochloric acid-ethanol was added thereto. The solvent was distilled off under reduced pressure, and the residue was crystallized from diethyl ether to obtain 280 mg of the above identified compound as colorless crystals. (m.p. 170.0-172.0° C.)

reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-methyl-N-(1-(4-fluorobenzyl)benzimidazol-2-yl)-N'-methyl-N'-t-butoxycarbonyl-1,3-propylenediamine | 1.3 g | CN(CCCN(C(=O)OC(C)(C)C)C)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C24H31FN4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | phenyl N-(3,5-bis(trifluoromethyl)benzyl)carbamate | 370 mg | FC(C=1C=C(CNC(OC2=CC=CC=C2)=O)C=C(C1)C(F)(F)F)(F)F | C16H11F6NO2
reactant | hydrochloric acid ethanol | 1 ml | Cl.C(C)O
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
product | N-methyl-N-(1-(4-fluorobenzyl)benzimidazol-2-yl)-N'-methyl-N'-(3,5-bis(trifluoromethyl)benzylaminocarbonyl)-1,3-propylenediamine hydrochloride | Cl.CN(CCCN(C(=O)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | InChI=1S/C29H28F7N5O.ClH/c1-39(26-38-24-6-3-4-7-25(24)41(26)18-19-8-10-23(30)11-9-19)12-5-13-40(2)27(42)37-17-20-14-21(28(31,32)33)16-22(15-20)29(34,35)36;/h3-4,6-11,14-16H,5,12-13,17-18H2,1-2H3,(H,37,42);1H
